* C:\Users\lokes\Desktop\RL_Project\RL_Project\custom_rl_circuit.asc
V§AC1 N001 0 AC 1
R1 Vout N001 3000
R2 0 N002 5000
R3 N003 Vout 5000
.ac oct 10 1 1000
.backanno
.end
